US06127386
203a 5-Amino-3-ethenyl-2-fluoropyridine
To a stirred solution of 5-amino-3-bromo-2-fluoropyridine (3.25 g, 17.0 mmol) in toluene (20 mL) was added tributyl(vinyl)tin (7.64 g, 20.4 mmol) followed by tetrakis(triphenylphosphine) palladium (Aldrich, 0.63 g, 1.7 mmol). The reaction mixture was heated at 100° C. for 24 h. The solvent was removed in vacuo and the residue was purified by column chromatography (silica gel; EtOAc/hexane, 4:6) to afford the title compound as a beige solid (2.30 g, 98%): 1H NMR (CDCl3, 300 MHz) δ 3.61 (br s, 2H), 5.44 (d, J=11.5 Hz, 1H), 5.83 (d, J=17.5 Hz, 1H), 6.66 (m, 1H), 7.18 (dd, J=3.0, 5.0 Hz, 1H), 7.52 (m, 1H); MS (CI/NH3) m/z 139 (M+H)+, 156 (M+NH4)+.

reactant | 5-amino-3-bromo-2-fluoropyridine | 17.0 mmol, 3.25 g | NC=1C=C(C(=NC1)F)Br | C5H4BrFN2
reactant | tributyl(vinyl)tin | 20.4 mmol, 7.64 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 1.7 mmol, 0.63 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-Amino-3-ethenyl-2-fluoropyridine | 2.30 g, 98% | NC=1C=C(C(=NC1)F)C=C | C7H7FN2
